US08937071B2
To a mixture of 1-fluoro-4-nitro-2-(trifluoromethyl)benzene (5 g, 23.91 mmol) in DMF (50 mL) was added K2CO3 (6.61 g, 47.8 mmol) and 2-(benzyloxy)ethanol (4.00 g, 26.3 mmol) at rt. The mixture was stirred at 110° C. for 12 h. LCMS and TLC (PE/EA=5:1, Rf=0.4) showed the reaction was finished. The mixture was filtrated, and the filtrate was concentrated to give crude product, which was purified by silica gel column to obtain 1-(2-(benzyloxy)ethoxy)-4-nitro-2-(trifluoromethyl)benzene (7.1 g, 18.18 mmol, 76.0% yield): 1H NMR (400 MHz, CDCl3) 8.49 (d, J=2.4 Hz, 1H), 8.38 (d, J=9.2 Hz, 1H), 7.54-7.28 (m, 5H), 7.13 (d, J=8.4 Hz, 1H), 4.56 (s, 2H), 4.36 (t, J=4.8 Hz, 2H), 3.89 (t, J=3.6 Hz, 2H); ES-LCMS m/z 342(M+H).

reactant | 1-fluoro-4-nitro-2-(trifluoromethyl)benzene | 23.91 mmol, 5 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | K2CO3 | 47.8 mmol, 6.61 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(benzyloxy)ethanol | 26.3 mmol, 4.00 g | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(2-(benzyloxy)ethoxy)-4-nitro-2-(trifluoromethyl)benzene | 18.18 mmol, 7.1 g, 76.0% yield | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C16H14F3NO4
